US03987091
A solution is prepared from ethyl 7-{N-[4-(2-tetrahydropyranyloxy)nonyl]acetamido}heptanoate (4.5 g., 0.01 mole), ethanol (50 ml.) and 4 drops of concentrated hydrochloric acid, and kept at ambient temperature for 4.5 hours. Then to the reaction mixture is added a solution of sodium hydroxide (0.72 g., 0.018 mole) in water (8 ml.) and the mixture is kept at ambient temperature for an additional twenty hours. Most of the ethanol is removed by evaportion in vacuo and the resulting solution is diluted with water (100 ml.). This solution is extracted, once with ether, then acidified with hydrochloric acid. The oil that separates is extracted into ether, the ethereal extract is dried over sodium sulfate, then the solvent is removed under vacuum to give 7-[N-(4-hydroxynonyl)acetamido]heptanoic acid as a yellow oil; pmr (CDCl3) δ 0.93 (3H,m CH3), 2.10 (3H,s CH3CO), 3.38 (4H,m NCH), 7.03 (2H,s COOH, OH).

reactant | ethyl 7-{N-[4-(2-tetrahydropyranyloxy)nonyl]acetamido}heptanoate | 0.01 mole, 4.5 g | O1C(CCCC1)OC(CCCN(C(C)=O)CCCCCCC(=O)OCC)CCCCC | C25H47NO5
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.018 mole, 0.72 g | [OH-].[Na+]
catalyst | hydrochloric acid | 4 drops | Cl | ClH
solvent | water | 8 ml | O | H2O
product | 7-[N-(4-hydroxynonyl)acetamido]heptanoic acid | OC(CCCN(C(C)=O)CCCCCCC(=O)O)CCCCC | C18H35NO4
